US07816369B2
2-Chloro-N-(5-chloro-2-nitro-phenyl)-5-nitro-benzamide (1.78 g; 5 mmol) was dissolved in glacial acetic acid (30 ml) and heated to 70° C. Zinc powder (3.3 g; 50 mmol) was added portionwise. After 2 hours, the reaction was filtered and the solid washed with acetonitrile. The solvents were evaporated and the residue loaded onto a silica gel chromatography column using dichloromethane/triethylamine. Elution with 20% ethyl acetate in heptane gave 4-chloro-3-(5-chloro-1H-benzoimidazol-2-yl)-phenylamine as an orange powder (0.22 g, 16%).

reactant | 2-Chloro-N-(5-chloro-2-nitro-phenyl)-5-nitro-benzamide | 5 mmol, 1.78 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)Cl)[N+](=O)[O-])C=C(C=C1)[N+](=O)[O-] | C13H7Cl2N3O5
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 50 mmol, 3.3 g | [Zn] | Zn
product | 4-chloro-3-(5-chloro-1H-benzoimidazol-2-yl)-phenylamine | 0.22 g, 16% | ClC1=C(C=C(C=C1)N)C1=NC2=C(N1)C=CC(=C2)Cl | C13H9Cl2N3
